US07244725B2
To a THF (200 ml) solution of 2-iodo-benzyl alcohol (25 g, 107 mmol), at r.t., was added the NaH (5.12 g, 128 mmol) in small portions. After complete addition of the NaH the allyl bromide (11.1 ml, 128 mmol) was added via syringe. The mixture was stirred overnight at room temperature. The resulting white heterogeneous mixture was quenched with H2O (100 ml) and diluted with 300 ml of Et2O followed by washing with H2O (2×100 ml) and brine (1×100 ml). The organic layer was dried over MgSO4 and concentrated in vacuo to yield 31 g of 1-[(allyloxy)methyl]-2-iodobenzene as a faint yellow oil. HRMS (ESI+) calcd for C10H11IO m/z 273.9857 (M+H)+. Found 273.9855.

reactant | 2-iodo-benzyl alcohol | 107 mmol, 25 g | IC1=C(CO)C=CC=C1 | C7H7IO
reactant | NaH | 128 mmol, 5.12 g | [H-].[Na+]
reactant | allyl bromide | 128 mmol, 11.1 ml | C(C=C)Br | C3H5Br
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-[(allyloxy)methyl]-2-iodobenzene | 31 g | C(C=C)OCC1=C(C=CC=C1)I | C10H11IO
